* C:\Users\tagsys\Documents\GitHub\In-concrete-Backscatter\PCB\SIMU\IC-matching.asc
XU1 0 input N008 N006 N007 out N009 0 0 N010 0 LTC3588-1
L1 N007 out 22µ Ipk=0.75 Rser=0.19
C2 out 0 100µ V=6.3V
Rload out 0 500K
V1 N002 0 SINE(0 1 230000) Rser=100 Cpar=530p
C3 N006 N008 1µ
C1 N006 0 10µ
C4 N009 0 4.7µ
C5 N001 N003 1µ
C6 N005 0 1µ
D1 N001 N005 D
D2 0 N001 D
C7 N004 N001 1µ
C8 input N005 1µ
D3 N004 input D
D4 N005 N004 D
C9 N003 0 310p
L2 N002 N003 1.5m
.model D D
.lib C:\Users\tagsys\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 10 startup
* Notes:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2010 Linear Technology Inc. All rights reserved.
* LTC3588-1,  Piezoelectric Energy Harvesting Power Supply with Simulated Remote Sensor/Transmitter\nInput: 24V 41Hz  Rs=119K     Output: 3.3V with 30mA 10msec Pulse Load
* Piezoelectric Device\nMIDE V22BL\n1.4 Gpk Force at 41Hz\nwith Tip Mass of 1 gm.
.lib LTC3588-1.sub
.backanno
.end
