* C:\Users\tagsys\Documents\GitHub\In-concrete-Backscatter\PCB\SIMU\IC.asc
XU1 0 input N007 N005 N006 out N008 0 0 N009 0 LTC3588-1
L1 N006 out 22µ Ipk=0.75 Rser=0.19
C2 out 0 100µ V=6.3V
Rload out 0 500K
V1 N002 0 SINE(0 1 230000) Rser=100 Cpar=530p
C3 N005 N007 1µ
C1 N005 0 10µ
C4 N008 0 4.7µ
C5 N001 N002 1µ
C6 N004 0 1µ
D1 N001 N004 D
D2 0 N001 D
C7 N003 N001 1µ
C8 input N004 1µ
D3 N003 input D
D4 N004 N003 D
.model D D
.lib C:\Users\tagsys\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 10 startup
* Notes:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2010 Linear Technology Inc. All rights reserved.
* LTC3588-1,  Piezoelectric Energy Harvesting Power Supply with Simulated Remote Sensor/Transmitter\nInput: 24V 41Hz  Rs=119K     Output: 3.3V with 30mA 10msec Pulse Load
* Piezoelectric Device\nMIDE V22BL\n1.4 Gpk Force at 41Hz\nwith Tip Mass of 1 gm.
.lib LTC3588-1.sub
.backanno
.end
